US07968746B2
Oxidation as described in protocol B, using 150 mg N-(2-(dimethylamino)-ethyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide (0.468 mmol) and 564 mg CAN (1.03 mmol) with exceptions as noted. The aqueous phase was basified with NaHCO3 (s), extracted with EtOAc and the combined organics dried with Na2SO4, concentrated and flashed yielding 131 mg (83%) of N-(2-(dimethylamino)-ethyl)-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow solid.

reactant | N-(2-(dimethylamino)-ethyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 0.468 mmol, 150 mg | CN(CCNC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C)C | C18H28N2O3
reactant | CAN | 1.03 mmol, 564 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-(2-(dimethylamino)-ethyl)-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 131 mg, 83% | CN(CCNC(C(CCC1=C(C(C(=C(C1=O)C)C)=O)C)(C)O)=O)C | C18H28N2O4
